US05672588
2-Chloro-N-[(2-methoxyphenyl)methyl]adenosine
The title compound was prepared by reacting (2-methoxyphenyl)methylamine (0.55 g, 4.0 mmol) with 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.01 g, 1.6 mmol), followed by debenzoylation of the purified product using methanolic ammonia to provide the title 2-chloro- N-[(2-methoxyphenyl)methyl]adenosine (0.31 g, 45%)(after column chromatography) as a solid, mp 116°-119° C., 1H NMR (DMSO-d6)δ 3.51-3.60 (1H, m, H-5'a), 3.61-3.70 (1H, m, H-5'b), 3.95 (1H, q, H-4'), 4.13 (1H, m, H-3'), 4.52 (1H, q, H-2'), 5.06 (1H, t, 5'-0H), 5.22, 5.50 (2H, 2d, 2'- and 3'-OH), 5.85 (1H, d, H-1'), 6.83-7.25 (4H, 2t, 2d, Ar--H), 8.43 (1H, s, H-8), 8.72 (1H, t, N--H).

reactant | (2-methoxyphenyl)methylamine | 4.0 mmol, 0.55 g | COC1=C(C=CC=C1)CN | C8H11NO
reactant | 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 1.6 mmol, 1.01 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | ammonia | N | H3N
product | 2-chloro- N-[(2-methoxyphenyl)methyl]adenosine | 0.31 g, 45% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NCC1=C(C=CC=C1)OC | C18H20ClN5O5
